US07728025B2
(Step 1) Production of (2R,4R)-4-(tert-butyl-diphenyl-silanyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester
2.32 g of tert-butyldiphenylsilyl chloride and 2.32 g of imidazole were added in order to a dimethylformamide (60 ml) solution of 3.61 g of (2R,4R)-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester, and the reaction liquid was stirred overnight at room temperature. The reaction liquid was diluted with ethyl acetate, washed with aqueous saturated ammonium chloride and saturated saline in order, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/2) to obtain the entitled compound.

reactant | tert-butyldiphenylsilyl chloride | 2.32 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 2.32 g | N1C=NC=C1 | C3H4N2
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
reactant | (2R,4R)-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester | 3.61 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C[C@H](C1)O)C(=O)O | C13H15NO5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,4R)-4-(tert-butyl-diphenyl-silanyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](C[C@H](C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C(=O)O | C29H33NO5Si
